* File: G5_XNOR3_N3.pex.netlist.pex
* Created: Mon Mar 28 16:13:50 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G5_XNOR3_N3_VDD 2 5 9 12 14 17 34 35 44 45 54 55 65 69 74 77 79 80 81
+ 84 86 87 90 93 96 98 102 104 108 112 114 116 117 119 125 134 139 Vss
c113 139 Vss 0.0048986f
c114 134 Vss 0.00495479f
c115 125 Vss 0.00563771f
c116 117 Vss 2.39889e-19
c117 116 Vss 4.92173e-19
c118 115 Vss 5.21614e-19
c119 114 Vss 4.52364e-19
c120 112 Vss 0.0017155f
c121 110 Vss 0.00173699f
c122 108 Vss 6.49327e-19
c123 104 Vss 0.00471178f
c124 102 Vss 0.0010418f
c125 98 Vss 0.00587581f
c126 96 Vss 0.00147489f
c127 93 Vss 0.00334883f
c128 90 Vss 0.00547221f
c129 87 Vss 8.67855e-19
c130 86 Vss 0.00654417f
c131 84 Vss 0.00154142f
c132 81 Vss 8.68392e-19
c133 80 Vss 0.00938293f
c134 79 Vss 0.0116507f
c135 77 Vss 0.00304889f
c136 74 Vss 0.00785043f
c137 69 Vss 0.00836757f
c138 65 Vss 0.00811483f
c139 55 Vss 0.0356247f
c140 54 Vss 0.10084f
c141 45 Vss 0.0356281f
c142 44 Vss 0.101312f
c143 35 Vss 0.0346562f
c144 34 Vss 0.0991017f
c145 17 Vss 0.378772f
c146 9 Vss 0.379175f
c147 5 Vss 0.383323f
r148 110 119 0.326018
r149 110 112 6.16843
r150 108 139 1.16709
r151 106 108 2.16729
r152 105 117 0.494161
r153 104 119 0.326018
r154 104 105 7.46046
r155 102 134 1.16709
r156 100 117 0.128424
r157 100 102 2.16729
r158 99 116 0.494161
r159 98 106 0.652036
r160 98 99 10.3363
r161 94 115 0.0828784
r162 94 96 2.00578
r163 93 116 0.128424
r164 92 115 0.551426
r165 92 93 5.50157
r166 90 125 1.16709
r167 88 115 0.551426
r168 88 90 7.66886
r169 86 116 0.494161
r170 86 87 10.1279
r171 82 114 0.0828784
r172 82 84 1.82344
r173 80 117 0.494161
r174 80 81 15.8795
r175 79 87 0.652036
r176 78 114 0.551426
r177 78 79 18.3386
r178 77 114 0.551426
r179 76 81 0.652036
r180 76 77 5.50157
r181 74 112 1.16709
r182 69 96 1.16709
r183 65 84 1.16709
r184 57 139 0.0476429
r185 55 57 1.45875
r186 54 58 0.652036
r187 54 57 1.45875
r188 51 55 0.652036
r189 47 134 0.0476429
r190 45 47 1.45875
r191 44 48 0.652036
r192 44 47 1.45875
r193 41 45 0.652036
r194 37 125 0.238214
r195 35 37 1.45875
r196 34 38 0.652036
r197 34 37 1.45875
r198 31 35 0.652036
r199 17 58 5.1348
r200 17 51 5.1348
r201 14 74 0.123773
r202 12 69 0.123773
r203 9 48 5.1348
r204 9 41 5.1348
r205 5 38 5.1348
r206 5 31 5.1348
r207 2 65 0.123773
.ends

.subckt PM_G5_XNOR3_N3_C 2 4 6 8 17 20 23 32 37 40 44 47 52 57 84 92 98 Vss
c49 98 Vss 3.10785e-19
c50 92 Vss 0.00560641f
c51 84 Vss 0.00950787f
c52 57 Vss 0.004971f
c53 52 Vss 7.31067e-19
c54 47 Vss 0.00104925f
c55 40 Vss 0.00163759f
c56 37 Vss 0.0082356f
c57 32 Vss 0.00958317f
c58 23 Vss 2.04877e-19
c59 20 Vss 0.221837f
c60 17 Vss 0.180502f
c61 15 Vss 0.0247918f
c62 4 Vss 0.188411f
r63 93 98 0.441572
r64 92 94 0.655813
r65 92 93 9.04425
r66 88 98 0.174814
r67 84 98 0.441572
r68 52 94 3.33429
r69 47 88 3.33429
r70 40 57 1.16709
r71 40 84 22.1365
r72 40 44 0.0833571
r73 37 52 1.16709
r74 32 47 1.16709
r75 23 57 0.0476429
r76 21 23 0.326018
r77 21 23 0.1167
r78 20 24 0.652036
r79 20 23 6.7686
r80 17 57 0.357321
r81 15 23 0.326018
r82 15 17 0.40845
r83 8 37 0.123773
r84 6 32 0.123773
r85 4 24 5.1348
r86 2 17 4.72635
.ends

.subckt PM_G5_XNOR3_N3_VSS 3 6 8 11 15 18 34 37 44 45 54 55 57 66 70 73 78 83 88
+ 93 96 99 108 113 122 124 125 126 131 132 137 149 153 154 155 Vss
c122 155 Vss 3.75522e-19
c123 154 Vss 3.91906e-19
c124 153 Vss 4.4306e-19
c125 149 Vss 3.17876e-19
c126 137 Vss 0.00359616f
c127 132 Vss 8.45126e-19
c128 131 Vss 0.00635332f
c129 126 Vss 8.42189e-19
c130 125 Vss 0.0059194f
c131 124 Vss 0.00452138f
c132 122 Vss 0.00375531f
c133 113 Vss 0.00410359f
c134 108 Vss 0.00419612f
c135 99 Vss 0.00605485f
c136 96 Vss 0.00346991f
c137 93 Vss 0.00310291f
c138 88 Vss 2.34373e-19
c139 83 Vss 0.00134516f
c140 78 Vss 0.0023966f
c141 73 Vss 0.00367309f
c142 70 Vss 0.0100681f
c143 66 Vss 0.00715185f
c144 57 Vss 9.33833e-20
c145 55 Vss 0.0347733f
c146 54 Vss 0.0999406f
c147 45 Vss 0.035088f
c148 44 Vss 0.0994129f
c149 37 Vss 5.39995e-20
c150 35 Vss 0.0349058f
c151 34 Vss 0.100344f
c152 15 Vss 0.379275f
c153 11 Vss 0.379887f
c154 8 Vss 0.00143493f
c155 3 Vss 0.3841f
r156 147 149 0.416786
r157 143 155 0.494161
r158 139 155 0.128424
r159 138 154 0.494161
r160 137 147 0.652036
r161 137 138 7.46046
r162 133 154 0.128424
r163 131 155 0.494161
r164 131 132 15.8795
r165 127 153 0.0828784
r166 125 154 0.494161
r167 125 126 13.0037
r168 124 132 0.652036
r169 123 153 0.551426
r170 123 124 13.8373
r171 122 153 0.551426
r172 121 126 0.652036
r173 121 122 10.0029
r174 96 143 8.04396
r175 93 96 6.75193
r176 88 113 1.16709
r177 88 149 1.7505
r178 83 108 1.16709
r179 83 139 2.16729
r180 78 133 6.16843
r181 73 99 1.16709
r182 73 127 4.33978
r183 70 93 1.16709
r184 66 78 1.16709
r185 57 113 0.0476429
r186 55 57 1.45875
r187 54 58 0.652036
r188 54 57 1.45875
r189 51 55 0.652036
r190 47 108 0.0476429
r191 45 47 1.45875
r192 44 48 0.652036
r193 44 47 1.45875
r194 41 45 0.652036
r195 37 99 0.238214
r196 35 37 1.45875
r197 34 38 0.652036
r198 34 37 1.45875
r199 31 35 0.652036
r200 18 70 0.123773
r201 15 58 5.1348
r202 15 51 5.1348
r203 11 48 5.1348
r204 11 41 5.1348
r205 8 66 0.123773
r206 6 66 0.123773
r207 3 38 5.1348
r208 3 31 5.1348
.ends

.subckt PM_G5_XNOR3_N3_CI 2 4 6 8 23 26 31 34 39 44 79 80 85 91 Vss
c47 91 Vss 2.55674e-19
c48 85 Vss 0.00650738f
c49 80 Vss 3.61784e-19
c50 79 Vss 0.00547357f
c51 44 Vss 7.31067e-19
c52 39 Vss 7.72278e-19
c53 34 Vss 0.00616608f
c54 31 Vss 0.00967911f
c55 26 Vss 0.00811165f
c56 23 Vss 0.00522928f
c57 4 Vss 0.00143493f
r58 86 91 0.441572
r59 85 87 0.655813
r60 85 86 9.04425
r61 81 91 0.174814
r62 79 91 0.441572
r63 79 80 19.1096
r64 75 80 0.655813
r65 44 87 3.33429
r66 39 81 3.33429
r67 34 75 16.1713
r68 31 44 1.16709
r69 26 39 1.16709
r70 23 34 1.16709
r71 8 31 0.123773
r72 6 26 0.123773
r73 4 23 0.123773
r74 2 23 0.123773
.ends

.subckt PM_G5_XNOR3_N3_A 2 4 7 11 24 44 45 49 51 54 56 57 60 65 66 69 74 Vss
c69 74 Vss 0.00565895f
c70 69 Vss 0.00509443f
c71 66 Vss 0.00618081f
c72 65 Vss 7.10913e-19
c73 57 Vss 8.70991e-19
c74 56 Vss 6.16621e-19
c75 54 Vss 0.00573533f
c76 51 Vss 0.00643922f
c77 49 Vss 0.135088f
c78 45 Vss 0.127808f
c79 44 Vss 1.14131e-19
c80 24 Vss 0.217341f
c81 21 Vss 0.18375f
c82 19 Vss 0.0247918f
c83 7 Vss 1.43795f
c84 4 Vss 0.194116f
r85 65 74 1.16709
r86 65 66 0.531835
r87 62 69 1.16709
r88 60 62 0.125036
r89 57 60 0.708536
r90 56 66 10.4613
r91 53 56 0.652036
r92 53 54 10.503
r93 52 57 0.0685365
r94 51 54 0.652036
r95 51 52 10.2113
r96 47 49 4.53833
r97 44 74 0.0238214
r98 44 45 2.26917
r99 41 44 2.26917
r100 36 49 0.00605528
r101 35 45 0.00605528
r102 32 47 0.00605528
r103 31 41 0.00605528
r104 27 69 0.0952857
r105 25 27 0.326018
r106 25 27 0.1167
r107 24 28 0.652036
r108 24 27 6.7686
r109 21 27 0.3335
r110 19 27 0.326018
r111 19 21 0.2334
r112 11 36 5.1348
r113 11 32 5.1348
r114 7 11 17.9718
r115 7 35 5.1348
r116 7 11 17.9718
r117 7 31 5.1348
r118 4 28 5.1348
r119 2 21 4.9014
.ends

.subckt PM_G5_XNOR3_N3_BI 2 4 6 8 16 23 29 32 37 42 51 56 64 65 68 77 82 83 Vss
c67 83 Vss 7.14146e-20
c68 82 Vss 6.9543e-19
c69 77 Vss 9.4202e-19
c70 68 Vss 6.59929e-19
c71 65 Vss 3.58032e-19
c72 64 Vss 0.00251452f
c73 56 Vss 0.00269072f
c74 51 Vss 0.0023082f
c75 42 Vss 0.00171238f
c76 37 Vss 4.65964e-19
c77 32 Vss 0.00208283f
c78 29 Vss 0.00520899f
c79 23 Vss 9.01088e-20
c80 16 Vss 0.166484f
c81 8 Vss 0.166484f
c82 4 Vss 0.00143493f
r83 81 83 0.65409
r84 81 82 3.42052
r85 77 82 0.652979
r86 68 77 2.03284
r87 66 68 2.00057
r88 64 66 0.652036
r89 64 65 13.2121
r90 60 65 0.652036
r91 42 56 1.16709
r92 42 83 2.00578
r93 37 51 1.16709
r94 37 68 0.0416786
r95 32 60 5.62661
r96 29 32 1.16709
r97 23 56 0.50025
r98 16 51 0.50025
r99 8 23 4.37625
r100 6 16 4.37625
r101 4 29 0.123773
r102 2 29 0.123773
.ends

.subckt PM_G5_XNOR3_N3_AI 2 4 7 11 31 37 43 46 51 60 68 Vss
c46 68 Vss 2.68274e-19
c47 60 Vss 0.00659076f
c48 51 Vss 0.00468816f
c49 46 Vss 8.13811e-19
c50 43 Vss 0.00461167f
c51 37 Vss 0.12791f
c52 31 Vss 0.134438f
c53 7 Vss 1.42501f
c54 4 Vss 0.00143493f
r55 64 68 0.655813
r56 51 60 1.16709
r57 51 68 12.0347
r58 46 64 3.33429
r59 43 46 1.16709
r60 36 60 0.0238214
r61 36 37 2.334
r62 33 36 2.20433
r63 29 31 4.53833
r64 26 37 0.00605528
r65 25 31 0.00605528
r66 22 33 0.00605528
r67 21 29 0.00605528
r68 11 26 5.1348
r69 11 22 5.1348
r70 7 11 17.9718
r71 7 25 5.1348
r72 7 11 17.9718
r73 7 21 5.1348
r74 4 43 0.123773
r75 2 43 0.123773
.ends

.subckt PM_G5_XNOR3_N3_B 2 4 6 8 16 17 24 31 41 44 49 54 59 65 69 76 77 Vss
c63 77 Vss 3.11913e-19
c64 76 Vss 9.9238e-19
c65 69 Vss 0.00389578f
c66 65 Vss 0.00255458f
c67 59 Vss 0.00150469f
c68 54 Vss 0.00172736f
c69 49 Vss 0.00131253f
c70 44 Vss 1.53364e-19
c71 41 Vss 3.86756e-19
c72 31 Vss 0.166484f
c73 24 Vss 8.82658e-20
c74 20 Vss 0.0247918f
c75 17 Vss 0.0339179f
c76 16 Vss 0.186033f
c77 6 Vss 0.166669f
c78 4 Vss 0.177261f
c79 2 Vss 0.191454f
r80 76 77 0.655813
r81 75 76 4.04282
r82 69 75 0.653045
r83 59 62 0.35
r84 49 65 1.16709
r85 49 77 2.00578
r86 44 59 1.16709
r87 44 69 2.1395
r88 41 54 1.16709
r89 41 44 10.7364
r90 36 54 0.309679
r91 31 65 0.50025
r92 28 62 0.452607
r93 24 54 0.214393
r94 20 36 0.326018
r95 20 24 0.75855
r96 17 36 6.7686
r97 16 36 0.326018
r98 16 36 0.1167
r99 13 17 0.652036
r100 8 31 4.37625
r101 6 28 4.2012
r102 4 24 4.37625
r103 2 13 5.1348
.ends

.subckt PM_G5_XNOR3_N3_Z 2 4 6 8 23 27 30 33 Vss
c30 30 Vss 0.00380939f
c31 27 Vss 0.00807893f
c32 23 Vss 0.00720799f
c33 8 Vss 0.00143493f
c34 6 Vss 0.00143493f
r35 33 35 6.33514
r36 30 33 6.50186
r37 27 35 1.16709
r38 23 30 1.16709
r39 8 27 0.123773
r40 6 23 0.123773
r41 4 27 0.123773
r42 2 23 0.123773
.ends

