* File: G3_MIN3_T6_N1.pex.netlist.pex
* Created: Fri Apr  1 16:41:09 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G3_MIN3_T6_N1_VSS 2 4 6 10 12 22 27 32 37 40 42 45 60 65 70 75 88 89
+ 93 99 102 103 108 Vss
c79 109 Vss 6.38121e-19
c80 108 Vss 0.00185802f
c81 103 Vss 0.00201533f
c82 99 Vss 0.0091126f
c83 94 Vss 0.00136513f
c84 93 Vss 0.00679427f
c85 89 Vss 6.52641e-19
c86 88 Vss 0.00390198f
c87 75 Vss 0.00302736f
c88 70 Vss 3.56438e-22
c89 65 Vss 0.00159414f
c90 60 Vss 9.05888e-19
c91 45 Vss 0.0850774f
c92 42 Vss 0.0849587f
c93 37 Vss 0.0679309f
c94 32 Vss 0.103393f
c95 27 Vss 0.306892f
c96 22 Vss 0.138043f
c97 12 Vss 0.00262003f
c98 10 Vss 0.0805405f
c99 6 Vss 0.0807339f
c100 4 Vss 0.00185192f
c101 2 Vss 0.0794633f
r102 107 108 3.66771
r103 103 107 0.655813
r104 100 109 0.494161
r105 100 102 12.1285
r106 99 108 0.652036
r107 99 102 0.87525
r108 95 109 0.128424
r109 93 109 0.494161
r110 93 94 10.0862
r111 88 94 0.652036
r112 87 89 0.655813
r113 87 88 9.08593
r114 70 103 1.82344
r115 65 95 4.33457
r116 60 75 1.16709
r117 60 89 1.82344
r118 45 47 1.8672
r119 42 44 1.8672
r120 40 75 0.50025
r121 37 40 1.92555
r122 33 47 0.0685365
r123 32 34 0.652036
r124 32 33 2.8008
r125 29 47 0.5835
r126 28 42 0.0685365
r127 27 45 0.0685365
r128 27 28 10.9698
r129 24 44 0.5835
r130 23 37 0.0685365
r131 22 44 0.0685365
r132 22 23 4.7847
r133 12 70 1.16709
r134 10 34 2.5674
r135 6 29 2.5674
r136 4 65 1.16709
r137 2 24 2.5674
.ends

.subckt PM_G3_MIN3_T6_N1_VDD 2 4 8 10 12 22 27 32 42 45 60 61 63 65 69 71 73 78
+ 81 83 Vss
c82 83 Vss 0.00427875f
c83 79 Vss 7.70868e-19
c84 78 Vss 0.00350656f
c85 73 Vss 0.00126506f
c86 71 Vss 0.0122742f
c87 69 Vss 0.00176475f
c88 65 Vss 0.00137661f
c89 63 Vss 7.01183e-19
c90 62 Vss 0.00177567f
c91 61 Vss 0.00769188f
c92 60 Vss 0.00512434f
c93 45 Vss 0.0848894f
c94 42 Vss 0.0854608f
c95 38 Vss 0.0711342f
c96 32 Vss 0.106688f
c97 27 Vss 0.309245f
c98 22 Vss 0.14138f
c99 12 Vss 0.0779484f
c100 10 Vss 0.0024321f
c101 8 Vss 0.0787627f
c102 4 Vss 0.0785563f
c103 2 Vss 0.00185192f
r104 78 81 0.349767
r105 77 78 3.66771
r106 73 81 0.306046
r107 73 75 1.82344
r108 72 79 0.494161
r109 71 77 0.652036
r110 71 72 13.0037
r111 67 79 0.128424
r112 67 69 4.33457
r113 65 83 1.16709
r114 63 65 1.82344
r115 61 79 0.494161
r116 61 62 10.0862
r117 60 63 0.655813
r118 59 62 0.652036
r119 59 60 9.08593
r120 45 46 1.8672
r121 42 43 1.8672
r122 38 83 0.50025
r123 38 40 1.92555
r124 33 45 0.0685365
r125 32 34 0.652036
r126 32 33 2.8008
r127 29 45 0.5835
r128 28 43 0.0685365
r129 27 46 0.0685365
r130 27 28 10.9698
r131 24 42 0.5835
r132 23 40 0.0685365
r133 22 42 0.0685365
r134 22 23 4.7847
r135 12 34 2.5674
r136 10 75 1.16709
r137 8 29 2.5674
r138 4 24 2.5674
r139 2 69 1.16709
.ends

.subckt PM_G3_MIN3_T6_N1_Z 2 4 6 8 48 56 59 61 Vss
c50 61 Vss 0.00482259f
c51 56 Vss 0.00183713f
c52 48 Vss 0.00151912f
c53 8 Vss 0.00176753f
c54 6 Vss 0.00171956f
c55 4 Vss 6.64706e-19
c56 2 Vss 6.16734e-19
r57 61 63 2.79246
r58 59 61 0.125036
r59 56 59 2.50071
r60 51 61 10.7364
r61 51 53 2.79246
r62 48 51 2.62575
r63 8 63 1.16709
r64 6 56 1.16709
r65 4 53 1.16709
r66 2 48 1.16709
.ends

.subckt PM_G3_MIN3_T6_N1_C 2 4 6 8 14 20 29 32 37 42 Vss
c31 42 Vss 0.0053281f
c32 37 Vss 0.00169525f
c33 32 Vss 0.00511278f
c34 29 Vss 5.02822e-19
c35 20 Vss 0.268178f
c36 14 Vss 0.269305f
r37 32 42 1.16709
r38 29 37 1.16709
r39 29 32 10.0654
r40 20 42 0.50025
r41 14 37 0.50025
r42 6 8 7.5855
r43 6 20 1.80885
r44 2 4 7.5855
r45 2 14 1.80885
.ends

.subckt PM_G3_MIN3_T6_N1_B 2 4 6 8 17 18 26 32 35 Vss
c28 35 Vss 0.00171406f
c29 32 Vss 3.1388e-19
c30 26 Vss 0.0844898f
c31 18 Vss 0.0345851f
c32 17 Vss 0.0963137f
c33 6 Vss 0.292132f
c34 2 Vss 0.340186f
r35 29 35 1.16709
r36 29 32 0.0729375
r37 24 35 0.0476429
r38 24 26 1.92555
r39 17 19 0.652036
r40 17 18 2.8008
r41 14 26 0.0685365
r42 13 18 0.652036
r43 6 8 7.5855
r44 6 19 2.5674
r45 4 14 2.5674
r46 2 4 7.5855
r47 2 13 2.5674
.ends

.subckt PM_G3_MIN3_T6_N1_A 2 4 6 8 29 34 37 41 46 Vss
c28 46 Vss 0.00547458f
c29 41 Vss 0.00144837f
c30 37 Vss 0.00108816f
c31 34 Vss 5.02933e-19
c32 29 Vss 3.18404e-19
c33 26 Vss 0.087104f
c34 6 Vss 0.296947f
c35 2 Vss 0.267858f
r36 37 46 1.16709
r37 34 37 0.0833571
r38 29 41 1.16709
r39 29 37 5.03269
r40 24 46 0.0476429
r41 24 26 1.92555
r42 19 26 0.0685365
r43 17 41 0.50025
r44 8 19 2.5674
r45 6 8 7.5855
r46 4 17 1.80885
r47 2 4 7.5855
.ends

